US07777047B2
(2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid
To a solution of ethyl (2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (470 mg) in tetrahydrofuran (6 mL) and methanol (6 mL) was added a solution of potassium hydroxide (85% purity, 170 mg) in water (2.5 mL), and the mixture was stirred at 0° C. for 1 hr, and then at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, and neutralized with 1M hydrochloric acid. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was recrystallized from a mixed solvent of ethyl acetate-hexane to give the title compound (400 mg, yield 91%) as white crystals. MS: 431 (MH+). melting point 231-233° C.

reactant | ethyl (2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 470 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)S(=O)(=O)C1=NC=CC=C1 | C21H22N4O4S2
reactant | potassium hydroxide | 170 mg | [OH-].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 2.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 400 mg, yield 91% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C1=NC=CC=C1 | C19H18N4O4S2
